US07820673B2
51a) ((tert-butoxycarbonyl)amino)(2-thienyl)acetic acid
Amino(2-thienyl)acetic acid (1.0 g) was dissolved in THF (6 ml) and water (6 ml). Triethylamine (1.3 ml) and di-tert-butyl dicarbonate (1.6 ml) were added thereto, and mixed at room temperature for 15 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in water and washed with ethyl acetate. Then, the aqueous layer was concentrated to obtain the title compound as a dark brown oil (1.67 g, quantitative).

reactant | Amino(2-thienyl)acetic acid | 1.0 g | NC(C(=O)O)C=1SC=CC1 | C6H7NO2S
reactant | Triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.6 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | 6 ml | O | H2O
product | ((tert-butoxycarbonyl)amino)(2-thienyl)acetic acid | 1.67 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C=1SC=CC1 | C11H15NO4S
